US07220856B2
Preparation of 7-Chloro-4-[4-(4-fluorophenylaminocarbonyl)-3-methylpiperazin-1-yl]quinoline
7-Chloro-4-(3-methylpiperazin-1-yl)quinoline (0.13 g, 0.5 mmol) and 4-fluorophenyl isocyanate (57 μL, 0.5 mmol) in CH2Cl2 (10 mL) are reacted according to method C yielding the title product after column chromatography with hexane-EtOAc.

reactant | 7-Chloro-4-(3-methylpiperazin-1-yl)quinoline | 0.5 mmol, 0.13 g | ClC1=CC=C2C(=CC=NC2=C1)N1CC(NCC1)C | C14H16ClN3
reactant | 4-fluorophenyl isocyanate | 0.5 mmol, 57 μL | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 7-Chloro-4-[4-(4-fluorophenylaminocarbonyl)-3-methylpiperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CC(N(CC1)C(=O)NC1=CC=C(C=C1)F)C | C21H20ClFN4O
